US07696223B2
b) 4-[(tert-Butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-2-(4-chloro-phenyl)-thiazole-5-carboxylic acid ethyl ester
A mixture of 4-bromomethyl-2-(4-chloro-phenyl)-thiazole-5-carboxylic acid ethyl ester (2.22 g, 6.18 mmol), tert-butoxycarbonylamino-acetic acid ethyl ester (1.32 g, 6.48 mmol) and sodium hydride (60% in mineral oil, 296 mg, 7.4 mmol) in anhydrous dimethylformamide (30 mL) was stirred at 0° C. for one hour and room temperature for four hours before it was quenched with brine. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with water, brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and hexanes to give the title compound as a yellow oil (964 mg): 1H NMR (CDCl3, 200 MHz): δ=7.87 (d, 2H), 7.39 (d, 2H), 4.99 (m, 2H), 4.21 (m, 6H), 1.45 (s, 9H), 1.26 (t, 3H).

reactant | 4-bromomethyl-2-(4-chloro-phenyl)-thiazole-5-carboxylic acid ethyl ester | 6.18 mmol, 2.22 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)CBr | C13H11BrClNO2S
reactant | tert-butoxycarbonylamino-acetic acid ethyl ester | 6.48 mmol, 1.32 g | C(C)OC(CNC(=O)OC(C)(C)C)=O | C9H17NO4
reactant | sodium hydride | 7.4 mmol, 296 mg | [H-].[Na+]
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4-[(tert-Butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-2-(4-chloro-phenyl)-thiazole-5-carboxylic acid ethyl ester | 964 mg | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)CN(CC(=O)OCC)C(=O)OC(C)(C)C | C22H27ClN2O6S
